US06768012B2
Synthesis of Paclitaxel
In a 10 ml round-bottom flask, 0.031 g (0.041 mmol, 1.0 eq) of N-debenzoyl-paclitaxel were dissolved in 1.25 ml of AcOEt. The clear yellow solution was added with 1.25 ml of a NaHCO3 aqueous saturated solution. 7.1 ml (0.064 mmol, 1.5 eq) of benzoyl chloride were dropped into the resulting diphasic mixture, under strong magnetic stirring. The progress of the reaction was checked by TLC (SiO2, CHCl3/CH3OH 9:1). After disappearance of the starting product, a single spot having Rf=0.50 was observed. The reaction mixture was diluted with AcOEt. The organic phase was separated from the aqueous one, which was extracted with AcOEt (three extractions). The combined organic phases were dried over MgSO4, filtered and concentrated. The crude (0.037 g) was dissolved in a 1:1 mixture of CH2Cl2/ethyl ether, then n-pentane (0.030 g, 0.035 mmol, 86%) was added to precipitate paclitaxel, having the spectroscopic characteristics reported in literature.

reactant | N-debenzoyl-paclitaxel | 0.041 mmol, 0.031 g, 1.0 eq | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)N)O)O)OC(=O)C6=CC=CC=C6)(CO4)OC(=O)C)O)C)OC(=O)C | C40H47NO13
reactant | NaHCO3 | 1.25 ml | C(=O)(O)[O-].[Na+]
reactant | benzoyl chloride | 0.064 mmol, 7.1 ml, 1.5 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | n-pentane | 0.035 mmol, 0.030 g | CCCCC | C5H12
solvent | AcOEt | 1.25 ml | CCOC(=O)C | C4H8O2
solvent | CHCl3 CH3OH | C(Cl)(Cl)Cl.CO
product | Paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
